US08110588B2
4-[5-Amino-1-(2,4-dichloro-phenyl)-1H-[1,2,3]triazol-4-yl]-benzonitrile (20)
To a stirred and ice-cooled solution of sodium methoxide (0.388 g, 7.1802 mmol) in methanol (30 ml), 4-cyanophenylacetonitrile (0.817 g, 5.7442 mmol) and 1-azido-2,4-dichloro-benzene (0.900 g, 4.7868 mmol) are added portion wise under a nitrogen atmosphere. The reaction mixture is allowed to attain room temperature spontaneously overnight, concentrated in vacuo, added water and extracted with ethylacetate (3×100 ml). The combined organic layers are dried over MgSO4, filtered and evaporated to give a dark brown gummy residue (1.425 g, 90% mass balance). This crude material is purified by column chromatography over silica gel (230-400 mesh) eluting with 20% ethylacetate in petroleum ether, to afford the title compound as a yellow solid (0.450 g, 29% yield). LC-ESI-HRMS of [M+H]+ shows 330.0319 Da. Calc. 330.031326 Da, dev. 1.7 ppm.

reactant | sodium methoxide | 7.1802 mmol, 0.388 g | C[O-].[Na+]
reactant | 4-cyanophenylacetonitrile | 5.7442 mmol, 0.817 g | C(#N)C1=CC=C(C=C1)CC#N | C9H6N2
reactant | 1-azido-2,4-dichloro-benzene | 4.7868 mmol, 0.900 g | N(=[N+]=[N-])C1=C(C=C(C=C1)Cl)Cl | C6H3Cl2N3
solvent | methanol | 30 ml | CO | CH4O
product | 4-[5-Amino-1-(2,4-dichloro-phenyl)-1H-[1,2,3]triazol-4-yl]-benzonitrile | 0.450 g, 29% yield | NC1=C(N=NN1C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C#N)C=C1 | C15H9Cl2N5
